US04399134
A mixture of 56 g of 9-chloro-8-fluoro-2-methyl-1,2-dihydro-6-oxo-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid, 71 g of pyrrolidone and 60 ml of hexamethylphosphoric triamide in a stainless steel autoclave was reacted at 150° C. for 8 hours. After completion of reaction, hexamethylphosphoric triamide was distilled off under reduced pressure and the residue was recrystallized repeatedly from dimethylformamide to give 25 g of 9-(1-pyrrolidinyl)-8-fluoro-2-methyl-1,2-dihydro-6-oxo-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid. m.p. not lower than 300° C., pale yellow rhombic crystals.

reactant | 9-chloro-8-fluoro-2-methyl-1,2-dihydro-6-oxo-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 56 g | ClC1=C(C=C2C(C(=CN3C2=C1CC3C)C(=O)O)=O)F | C13H9ClFNO3
reactant | pyrrolidone | 71 g | N1C(CCC1)=O | C4H7NO
solvent | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexamethylphosphoric triamide | 60 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 9-(1-pyrrolidinyl)-8-fluoro-2-methyl-1,2-dihydro-6-oxo-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 25 g | N1(CCCC1)C1=C(C=C2C(C(=CN3C2=C1CC3C)C(=O)O)=O)F | C17H17FN2O3
